US07696240B2
To a suspension of 5-fluoro-3-formyl-1-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid ethyl ester (1.16 g) in EtOH (35 ml) was added at 22° C. pyridine (8.0 ml) and hydroxylamine hydrochloride (0.54 g) and the mixture was heated to reflux temperature for 2 h. The mixture was evaporated and the residue partitioned between 1 N HCl and t-butylmethyl ether. The organic layer was dried and evaporated to give 5-fluoro-3-(hydroxyimino-methyl)-1-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid ethyl ester as a colorless foam. MS: 391.1 ([M+H]+).

reactant | 5-fluoro-3-formyl-1-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid ethyl ester | 1.16 g | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1C=O)F)CC1=CC=CC2=CC=CC=C12 | C23H18FNO3
reactant | pyridine | 8.0 ml | N1=CC=CC=C1 | C5H5N
reactant | hydroxylamine hydrochloride | 0.54 g | Cl.NO
solvent | EtOH | 35 ml | CCO | C2H6O
product | 5-fluoro-3-(hydroxyimino-methyl)-1-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1C=NO)F)CC1=CC=CC2=CC=CC=C12 | C23H19FN2O3
